US06194591B1
PREPARATION OF Pd/TS-1 BY IMPREGNATION
Palladium dibromide (0.377 g) is dissolved in 30% aqueous ammonium hydroxide (50 g) in a 250-mL flask equipped with a magnetic stir bar. Deionized water (60 g) is added to the solution, followed by addition of TS-1 (30 g, 2.12 wt. % titanium) over a 5 minute period. The slurry is stirred at 23° C. for 0.5 hr, then the solvent is removed by rotoevaporation at 55° C. The solids are dried in a vacuum oven (1 torr) at 50° C. for 4 hrs. The catalyst (Catalyst 3) analyzed for 0.5 wt % palladium, 2.1 wt % titanium, 0.7 wt % bromine and 0.37 wt % nitrogen.

reactant | Palladium dibromide | 0.377 g | [Pd](Br)Br
reactant | water | 60 g | O | H2O
reactant | TS-1 | 30 g | C1CC(OC1)N2C=C(C(=O)NC2=O)F | C8H9FN2O3
solvent | ammonium hydroxide | 50 g | [OH-].[NH4+]
product | Pd TS-1 | [Pd].C1CC(OC1)N2C=C(C(=O)NC2=O)F | InChI=1S/C8H9FN2O3.Pd/c9-5-4-11(6-2-1-3-14-6)8(13)10-7(5)12;/h4,6H,1-3H2,(H,10,12,13);
